US05859030
c) 2-Chloromethyl-3-methyl-4-{4-[2-(2-methyl-5-nitroimidazol-1-yl)ethylthio]butylthio}pyridine
4 g (10 mmol) of 2-hydroxymethyl-3-methyl-4-{4-[2-(2-methyl-5-nitroimidazol-1-yl)ethylthio]butylthio}-pyridine are dissolved in 40 ml of dichloromethane. 1.56 g (13.11 mmol) of thionyl chloride in 5 ml of dichloromethane are added dropwise with ice-cooling. The mixture is stirred at 0C for 2 h. It is then added to 250 ml of ice-water and neutralized with saturated sodium hydrogen carbonate solution. The dichloromethane phase is separated off and the aqueous phase is extracted again with dichloromethane. The combined organic phases are washed with water, dried over magnesium sulfate, filtered and concentrated. The title compound is obtained as a yellow oil which is reacted without further purification. Yield 4.15 g (100% of theory).

reactant | 2-hydroxymethyl-3-methyl-4-{4-[2-(2-methyl-5-nitroimidazol-1-yl)ethylthio]butylthio}-pyridine | 10 mmol, 4 g | OCC1=NC=CC(=C1C)SCCCCSCCN1C(=NC=C1[N+](=O)[O-])C | C17H24N4O3S2
reactant | thionyl chloride | 13.11 mmol, 1.56 g | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-Chloromethyl-3-methyl-4-{4-[2-(2-methyl-5-nitroimidazol-1-yl)ethylthio]butylthio}pyridine | ClCC1=NC=CC(=C1C)SCCCCSCCN1C(=NC=C1[N+](=O)[O-])C | C17H23ClN4O2S2
